* D:\UBC_Rocket_TVR\electrical-hardware\ESC\FETsims.asc
V§BATT+ N001 0 22V
V§High N003 Vld PULSE(0 12 0 10n 10n 8u 20u)
V§Low N006 0 PULSE(0 12 50u 10n 10n 8u 20u)
L1 N001 Vhd 10n Rpar=1u
L2 Vls 0 10n Rser=1u
Chgd Vhd N002 {Chgd}
Clgd Vld N004 {Clgd}
R1 Vld N005 3
Chds Vhd Vhs {Chds}
Clds Vld Vls {Clds}
D3 Vhs Vhd MBR745
L4 Vhs Vld 10n Rser=1u
M1 Vhd N002 Vhs Vhs BSC205N10LS
D1 Vls Vld MBR745
R2 N002 N003 10R
R3 N004 N006 10R
L3 N005 0 1m
C1 Vhs N002 {Chgs}
C2 Vls N004 {Chgs}
M3 Vld N004 Vls Vls BSC205N10LS
.model D D
.lib C:\Users\ak915\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ak915\AppData\Local\LTspice\lib\cmp\standard.mos
.param Chgd=1E-12 Chgs=1E-12 Chds=1E-12 Clgd=1E-12 Clgs=1E-12 Clds=1E-12
.tran 0 1m 0
* 10kHz  -> 100us: PULSE(0 12 0 10n 10n 45u 100u) : PULSE(0 12 50u 10n 10n 45u 100u)\n50kHz  -> 20us:  PULSE(0 12 0 10n 10n 8u 20u)   : PULSE(0 12 10u 10n 10n 8u 20u)\n100kHz -> 10us:  PULSE(0 12 0 10n 10n 4u 10u)   : PULSE(0 12 5u 10n 10n 4u 10u)
.model mysw1 SW(Ron=1m Roff=1G VT=5)
.model mysw2 SW(Ron=1m Roff=1G VT=5)
.step param Chgd 1p 10p 1p
.backanno
.end
